US05342846
1-(2,4-Difluorophenyl)-6-fluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A mixture of crude ethyl 1-(2,4-difluorophenyl) -6-fluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (150 mg, 0.31 mmol), THF (15 ml), NaOH (20 mg, 1.5 mmol) and water (15 ml) was heated under reflux for 3 h, cooled and the THF was evaporated. The residue was diluted with water, aqueous solution was acidified and the precipitated yellow solid was filtered, washed with water, dried in vac-oven at 50° C. This solid was washed with ether to get the pure compound. Yield: 50 mg (35.7%), m.p. 253° C. (dec). 1H NMR (TFA) δ: 2.85 (m, 2H), 3.70-4.50 (m, 4H), 5.80 (m, 1H), 7.20 (m, 2H), 7.60 (m, 1H), 8.25 (s, 1H), 8.57 (s, 1H), 8.62 (s, 1H), 9.20 (s, 1H).

reactant | ethyl 1-(2,4-difluorophenyl) -6-fluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.31 mmol, 150 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)OCC | C23H19F3N6O3
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | NaOH | 1.5 mmol, 20 mg | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 1-(2,4-Difluorophenyl)-6-fluoro-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)O | C21H15F3N6O3
